### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): add several lemmas about when `Walk.bypass` and `Walk.cycleBypass` do nothing

### PR DESCRIPTION
**Pull request by IvanRenison**
Co-authored-by: Vlad Tsyrklevich <vlad@tsyrklevi.ch>

---

- [x] depends on: #37577

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 1]
```diff
@@ -741,6 +741,9 @@ lemma bypass_eq_self_of_length_le (p : G.Walk u v) (h : p.length ≤ p.bypass.le
         Nat.add_le_add_iff_right] at h
       rw [ih h]
 
+lemma bypass_eq_self_iff_length_le (p : G.Walk u v) : p.bypass = p ↔ p.length ≤ p.bypass.length :=
+  ⟨fun hp ↦ Nat.le_of_eq (congrArg length hp.symm), p.bypass_eq_self_of_length_le⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
  ⟨fun hp ↦ (congrArg length hp.symm).le, p.bypass_eq_self_of_length_le⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 2]
```diff
@@ -782,6 +785,27 @@ theorem darts_toPath_subset (p : G.Walk u v) : (p.toPath : G.Walk u v).darts ⊆
 theorem edges_toPath_subset (p : G.Walk u v) : (p.toPath : G.Walk u v).edges ⊆ p.edges :=
   edges_bypass_subset _
 
+theorem IsPath.bypass_eq_self {p : G.Walk u v} (hp : p.IsPath) : p.bypass = p := by
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]: I have a shorter proof of this in #35398. Since this PR is more complete do you want to copy over `bypass_cons_nil`/`bypass_eq_nil` and I'd close my PR? The cycleBypass lemma in that PR is less general than what you have in #37574.

Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Paths.lean]: Done!

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 3]
```diff
@@ -782,6 +785,28 @@ theorem darts_toPath_subset (p : G.Walk u v) : (p.toPath : G.Walk u v).darts ⊆
...
+
+theorem IsPath.bypass_eq_self {p : G.Walk u v} (hp : p.IsPath) : p.bypass = p := by
+  induction p <;> grind [cons_isPath_iff, bypass]
+
+theorem bypass_eq_self_iff_isPath (p : G.Walk u v) : p.bypass = p ↔ p.IsPath := by
+  constructor
+  · intro hp
+    rw [← bypass_eq_self_of_length_le p (congrArg length hp).ge]
+    exact p.bypass_isPath
+  · exact IsPath.bypass_eq_self
```
Comment (vlad902) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
theorem bypass_eq_self_iff_isPath (p : G.Walk u v) : p.bypass = p ↔ p.IsPath :=
  ⟨fun hp ↦ hp ▸ p.bypass_isPath, IsPath.bypass_eq_self⟩
```

**Review by vlad902 — APPROVED** [review]

**Comment by vlad902** [comment]
btw, this PR is no longer blocked on/requires #37561

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 4]
```diff
@@ -956,6 +977,37 @@ lemma IsTrail.isCycle_cycleBypass {w : G.Walk v v} (hw : w ≠ .nil) (hw' : w.Is
...
+  cases w
+  · simp
+  · simp [cycleBypass, bypass_eq_self_iff_isPath, cons_isCycle_iff, (isTrail_cons ..).mp hw]
+
+theorem IsTrail.length_cycleBypass_lt_iff_not_isCycle_and_not_nil {w : G.Walk v v}
+    (hw : w.IsTrail) :
+    w.cycleBypass.length < w.length ↔ ¬w.IsCycle ∧ ¬w.Nil := by
+  cases w
+  · simp
+  · simp [cycleBypass, length_bypass_lt_iff_not_isPath, cons_isCycle_iff, (isTrail_cons ..).mp hw]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]: Haven't tested it but probably
```suggestion
  grind [hw.cycleBypass_eq_self_iff_isCycle_or_nil, cycleBypass_eq_self_iff_length_le]
```
I think this and `length_bypass_lt_iff_not_isPath` are redundant, since they compose two iffs then negate

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 5]
```diff
@@ -909,6 +912,24 @@ theorem edges_toPath_subset_edges (p : G.Walk u v) : (p.toPath : G.Walk u v).edg
...
+  grind [bypass, support_nil, SimpleGraph.irrefl]
+
+@[simp]
+lemma bypass_eq_nil (p : G.Walk u u) : p.bypass = nil := by
+  grind [p.bypass_isPath, isPath_iff_nil, Nil]
+
+theorem IsPath.bypass_eq_self {p : G.Walk u v} (hp : p.IsPath) : p.bypass = p := by
+  induction p <;> grind [cons_isPath_iff, bypass]
+
+theorem bypass_eq_self_iff_isPath (p : G.Walk u v) : p.bypass = p ↔ p.IsPath :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
theorem bypass_eq_self_iff_isPath {p : G.Walk u v} : p.bypass = p ↔ p.IsPath :=
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 6]
```diff
@@ -956,6 +977,37 @@ lemma IsTrail.isCycle_cycleBypass {w : G.Walk v v} (hw : w ≠ .nil) (hw' : w.Is
...
+lemma cycleBypass_eq_self_of_length_le (w : G.Walk v v) (h : w.length ≤ w.cycleBypass.length) :
+    w.cycleBypass = w := by
+  cases w
+  · simp
+  · simp only [length_cons, cycleBypass, Nat.add_le_add_iff_right, cons.injEq, heq_eq_eq,
+      true_and] at h ⊢
+    exact bypass_eq_self_of_length_le_length_bypass _ h
+
+theorem cycleBypass_eq_self_iff_length_le (w : G.Walk v v) :
+    w.cycleBypass = w ↔ w.length ≤ w.cycleBypass.length := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]: Can we have the iff only?

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 7]
```diff
@@ -909,6 +912,24 @@ theorem edges_toPath_subset_edges (p : G.Walk u v) : (p.toPath : G.Walk u v).edg
...
 
+@[simp]
+lemma bypass_cons_nil (hadj : G.Adj u v) : (cons hadj nil).bypass = cons hadj nil := by
+  grind [bypass, support_nil, SimpleGraph.irrefl]
+
+@[simp]
+lemma bypass_eq_nil (p : G.Walk u u) : p.bypass = nil := by
+  grind [p.bypass_isPath, isPath_iff_nil, Nil]
+
+theorem IsPath.bypass_eq_self {p : G.Walk u v} (hp : p.IsPath) : p.bypass = p := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]: Can you make this a forward grind lemma?

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 8]
```diff
@@ -912,6 +915,25 @@ theorem edges_toPath_subset_edges (p : G.Walk u v) : (p.toPath : G.Walk u v).edg
 
 @[deprecated (since := "2026-05-25")] alias edges_toPath_subset := edges_toPath_subset_edges
 
+@[simp]
+lemma bypass_cons_nil (hadj : G.Adj u v) : (cons hadj nil).bypass = cons hadj nil := by
+  grind [bypass, support_nil, SimpleGraph.irrefl]
+
+@[simp]
+lemma bypass_eq_nil (p : G.Walk u u) : p.bypass = nil := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]:
```suggestion
lemma nil_bypass (p : G.Walk u u) : p.bypass.Nil := by
```
This is the (relatively new) simpNF, and the original can be recovered either by `simp` or as `p.nil_bypass_eq.eq_nil`.

Although what I'm suggesting will break stuff like
```lean
example (p : G.Walk u u) : p.bypass.support = [u] := by
  simp
```
so I'm not sure what's best.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 9]
```diff
@@ -902,6 +902,9 @@ lemma bypass_eq_self_of_length_le_length_bypass (p : G.Walk u v) (h : p.length 
 @[deprecated (since := "2026-05-25")]
 alias bypass_eq_self_of_length_le := bypass_eq_self_of_length_le_length_bypass
 
+lemma bypass_eq_self_iff_length_le (p : G.Walk u v) : p.bypass = p ↔ p.length ≤ p.bypass.length :=
+  ⟨fun hp ↦ (congrArg length hp).ge, p.bypass_eq_self_of_length_le_length_bypass⟩
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]: Two minor comments:

1. This looks like it would make a good `simp` lemma if we flip the LHS and RHS side
2. How about we replace `bypass_eq_self_of_length_le_length_bypass` above with this

Thus I propose deleting + deprecating `bypass_eq_self_of_length_le_length_bypass` and adding:
```suggestion
@[simp]
lemma length_le_bypass_length_iff (p : G.Walk u v) :
    p.length ≤ p.bypass.length ↔ p.bypass = p :=
  ⟨fun h ↦ ext_support <| p.support_bypass_sublist_support.eq_of_length_le <| by simpa using h,
   fun hp ↦ (congrArg length hp).ge⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 10]
```diff
@@ -912,6 +915,25 @@ theorem edges_toPath_subset_edges (p : G.Walk u v) : (p.toPath : G.Walk u v).edg
...
+
+@[simp]
+lemma nil_bypass (p : G.Walk u u) : p.bypass.Nil := by
+  grind [p.bypass_isPath, isPath_iff_nil, Nil]
+
+@[grind →]
+theorem IsPath.bypass_eq_self {p : G.Walk u v} (hp : p.IsPath) : p.bypass = p := by
+  induction p <;> grind [cons_isPath_iff, bypass]
+
+theorem bypass_eq_self_iff_isPath {p : G.Walk u v} : p.bypass = p ↔ p.IsPath :=
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean:944]:
```suggestion
@[simp]
theorem bypass_eq_self_iff_isPath {p : G.Walk u v} : p.bypass = p ↔ p.IsPath :=
```

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 11]
```diff
@@ -912,6 +915,25 @@ theorem edges_toPath_subset_edges (p : G.Walk u v) : (p.toPath : G.Walk u v).edg
...
+  ⟨fun hp ↦ hp ▸ p.bypass_isPath, IsPath.bypass_eq_self⟩
+
+theorem length_bypass_lt_iff_not_isPath {p : G.Walk u v} :
+    p.bypass.length < p.length ↔ ¬p.IsPath := by
+  rw [iff_not_comm, Nat.not_lt, ← bypass_eq_self_iff_isPath, bypass_eq_self_iff_length_le]
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean]: Do we definitely want this lemma? Given that it's just a trivial combination of lemmas above, I think we'd need good evidence of it being useful in practice before we add it.

**Review by ocfnash — CHANGES_REQUESTED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean (hunk 11 above)
Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Paths.lean]: In #37579 I'm using this theorem

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Paths.lean]: I don't see it used there

Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Paths.lean]: Ah, right, sorry

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 12]
```diff
@@ -981,6 +998,27 @@ lemma IsTrail.isCycle_cycleBypass {w : G.Walk v v} (hw : w ≠ .nil) (hw' : w.Is
...
+  cases w <;> simp [cycleBypass]
+
+theorem IsCycle.cycleBypass_eq_self {w : G.Walk v v} (hw : w.IsCycle) : w.cycleBypass = w := by
+  cases w
+  · simp
+  · have hw' := (cons_isCycle_iff ..).mp hw
+    simp [cycleBypass, hw'.left.bypass_eq_self]
+
+theorem IsTrail.cycleBypass_eq_self_iff_isCycle_or_nil {w : G.Walk v v} (hw : w.IsTrail) :
+    w.cycleBypass = w ↔ w.IsCycle ∨ w.Nil := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean:1015]: Can you also add a version for circuits please?
```lean
theorem IsCircuit.cycleBypass_eq_self_iff_isCycle {w : G.Walk v v} (hw : w.IsCircuit) :
    w.cycleBypass = w ↔ w.IsCycle := by
```
(probably `by simp [hw.cycleBypass_eq_self_iff_isCycle_or_nil, hw.not_nil]` would do)

**Comment by ocfnash** [comment]
Thanks!

bors merge

File: Mathlib/Combinatorics/SimpleGraph/Paths.lean [hunk 13]
```diff
@@ -984,6 +1001,35 @@ lemma IsTrail.isCycle_cycleBypass {w : G.Walk v v} (hw : w ≠ .nil) (hw' : w.Is
...
+  simp [hw.cycleBypass_eq_self_iff_isCycle_or_nil, hw.not_nil]
+
+theorem IsTrail.length_cycleBypass_lt_iff_not_isCycle_and_not_nil {w : G.Walk v v}
+    (hw : w.IsTrail) :
+    w.cycleBypass.length < w.length ↔ ¬w.IsCycle ∧ ¬w.Nil := by
+  grind [hw.cycleBypass_eq_self_iff_isCycle_or_nil, cycleBypass_eq_self_iff_length_le]
+
+theorem IsCircuit.length_cycleBypass_lt_iff_not_isCycle {w : G.Walk v v} (hw : w.IsCircuit) :
+    w.cycleBypass.length < w.length ↔ ¬w.IsCycle := by
+  simp [hw.length_cycleBypass_lt_iff_not_isCycle_and_not_nil, hw.not_nil]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Paths.lean:1031]: These are no longer used in the dependent PR, could we remove them?
They're just negations of existing iffs
